US07317027B2
(v) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid
To a solution of 1.3 g (2.814 mmol) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester in 30 mL THF and 15 mL MeOH 11.26 mL 1M LiOH solution were added and the mixture was stirred at 50° C. for 3 h. The organic solvents were removed in vacuo, 50 mL of water were added and the pH was adjusted to pH 2 with 1N HCl solution. The desired product precipitated and was filtered, washed with water and dried over P2O5. Yield 1.11 g.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | 2.814 mmol, 1.3 g | C(C)OC(=O)C1=CC=2C(=CN=C(C2)OCCOC)N1CC1=NOC(=C1)C=1SC(=CC1)Cl | C21H20ClN3O5S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1M, 15 mL | CO | CH4O
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=CC=2C1=CN=C(C2)OCCOC)C(=O)O | C19H16ClN3O5S
